US05840753
A solution of 10 g of ethyl (E)-3-(4-(1,1-dimethylethyl)sulfamoylphenyl)-3-(4-fluorophenyl)-2-(2-hydroxyethyl)prop-2-enoate, prepared in example 20, in 50 ml of trifluoroacetic acid is heated under reflux for 16 hours. The solution is evaporated to dryness in vacuo and the residue is taken up into an acetone/diethyl ether mixture. The crystals formed are filtered off and dried to give 5.1 g of (E)-3-[1-(4-sulfamoylphenyl)-1-(4-fluorophenyl)methylene]-2,3,4,5-tetrahydrofuran-2-one as crystals with a melting point of 202° C.

reactant | ethyl (E)-3-(4-(1,1-dimethylethyl)sulfamoylphenyl)-3-(4-fluorophenyl)-2-(2-hydroxyethyl)prop-2-enoate | 10 g | CC(C)(C)NS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)OCC)\CCO)/C1=CC=C(C=C1)F | C23H28FNO5S
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-3-[1-(4-sulfamoylphenyl)-1-(4-fluorophenyl)methylene]-2,3,4,5-tetrahydrofuran-2-one | 5.1 g | S(N)(=O)(=O)C1=CC=C(C=C1)\C(\C1=CC=C(C=C1)F)=C/1\C(OCC1)=O | C17H14FNO4S
